US07521461B2
Methyl 2-({4-[2-(4-hydroxyphenoxy)ethyl]phenoxy}methyl)benzoate (0.547 g, 1.45 mmol) was dissolved in dichloromethane (10 ml) and the solution was cooled to −20° C. Triethylamine (0.22 g, 2.17 mmol) was added dropwise followed by the dropwise addition of methylsulfonyl chloride (0.18 g, 1.59 mmol). The ice bath was removed and the mixture was stirred overnight at room temperature. Excess of triethylamine was removed by addition of diethyl ether (5 ml) and filtering off the precipitate. The organic phase was washed with three portions of brine (10 ml) and dried (MgSO4). The solvent was removed by evaporation, the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 0.317 g of methyl 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]methyl}benzoate (yield 48%).

reactant | Methyl 2-({4-[2-(4-hydroxyphenoxy)ethyl]phenoxy}methyl)benzoate | 1.45 mmol, 0.547 g | OC1=CC=C(OCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C23H22O5
reactant | Triethylamine | 2.17 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 1.59 mmol, 0.18 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 2-{[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenoxy]methyl}benzoate | 0.317 g, yield 48% | CS(=O)(=O)OC1=CC=C(OCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C24H24O7S
